US06313312B1
3-Hexyl-6-methyl-6-[3-(2-thienyl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one
To tris(dibenzylideneacetone)dipalladium (0) (4.5 mg, 4.91 lmol) in tetrahydrofuran (1 ml) at room temperature was added triphenylarsine (5.9 mg, 19.2 μmol). After 5 min, 2-(tributylstannyl)thiophene (0.10 g, 0.27 mmol) in tetrahydrofuiran (1 ml) was added followed by 3-hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one (Preparation 67, 78 mg, 0.19 mmol) in tetrahydrofuran (1 ml). The reaction mixture was stirred at room temperature for 16 h and then refluxed for 2 h. The cooled reaction mixture was concentrated in vacuo and chromatographed on silica gel eluting with hexane:ethyl acetate (2.1) to give the title compound as a colourless oil (68 mg, 98%).

reactant | triphenylarsine | 19.2 μmol, 5.9 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | 2-(tributylstannyl)thiophene | 0.27 mmol, 0.10 g | C(CCC)[Sn](C=1SC=CC1)(CCCC)CCCC
reactant | 3-hexyl-6-(3-iodophenyl)-6-methyl-3-azabicyclo[3.1.0]hexan-2-one | 0.19 mmol, 78 mg | C(CCCCC)N1C(C2C(C2C1)(C)C1=CC(=CC=C1)I)=O | C18H24INO
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 4.5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Hexyl-6-methyl-6-[3-(2-thienyl)phenyl]-3-azabicyclo[3.1.0]hexan-2-one | 68 mg, 98% | C(CCCCC)N1C(C2C(C2C1)(C1=CC(=CC=C1)C=1SC=CC1)C)=O | C22H27NOS
